US06756500B1
Preparation of aminocyclotridec-11-en-2-one
58 mg (0.25 mmol) of 10-undecenoyl-allylamide and 10 mg of (tricyclohexylphosphine)-benzylidene-chloro-ruthenium-(IV) 2-[(2,6-diisopropylphenyl)imino]methyl-4-nitro-phenoxide (5 mol %) were dissolved in 3 g of 1-methyl-3-butylimidazolium hexafluorophosphate. The mixture was allowed to react at 40° C. for 14 hours. The ionic phase was extracted with dichloromethane. After filtration through a very short silica gel column (length about 0.5 cm), about 80% of the desired product were obtained (yield determined by means of gas chromatography). The trans/cis ratio of the product is about 5:1.

reactant | 10-undecenoyl-allylamide | 0.25 mmol, 58 mg | C(CCCCCCCCC=C)(=O)[N-]CC=C
reactant | 1-methyl-3-butylimidazolium hexafluorophosphate | 3 g | F[P-](F)(F)(F)(F)F.C[N+]1=CN(C=C1)CCCC
catalyst | (tricyclohexylphosphine)-benzylidene-chloro-ruthenium-(IV) 2-[(2,6-diisopropylphenyl)imino]methyl-4-nitro-phenoxide | 10 mg | C(C)(C)C1=C(C(=CC=C1)C(C)C)N=CC1=C([O-])C=CC(=C1)[N+](=O)[O-].C(C1=CC=CC=C1)=[Ru+]Cl.C1(CCCCC1)P(C1CCCCC1)C1CCCCC1
product | aminocyclotridec-11-en-2-one | about 80% | NC1C(CCCCCCCCC=CC1)=O | C13H23NO
